US08431695B2
Step 5: Preparation of tert-butyl 2-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate
To a dry flask purged with N2 was added platinum(IV) oxide (32 mg, 0.14 mmol) followed by benzyl 6-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydropyridine-1(2H)-carboxylate (480 mg, 1.37 mmol) as a solution in acetic acid (15 mL). The mixture was stirred under an H2 atmosphere for 6 h. Additional platinum(IV) oxide (32 mg) was added and the mixture continued to stir under an H2 atmosphere for an additional 16 h. The mixture was filtered through a pad of Celite®, eluting with acetic acid. The solvent was evaporated under reduced pressure. To a solution of the residue in THF (6 mL) was added 2N aqueous NaOH (6.9 mL, 13.7 mmol) and di-tert-butyl carbonate (314 mg, 1.44 mmol). The solvent was evaporated under reduced pressure and the aqueous mixture was extracted with ethyl acetate (3×15 mL). The organic layers were washed with brine, dried (Na2SO4) and concentrated to dryness to afford 440 mg (100%) of the desired product. ES-MS m/z 318.08 [M+H]+, HPLC RT (min) 2.45.

reactant | benzyl 6-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydropyridine-1(2H)-carboxylate | 1.37 mmol, 480 mg | NC1=NC=NN2C1=CC=C2C2=CCCCN2C(=O)OCC2=CC=CC=C2 | C19H19N5O2
reactant | NaOH | 13.7 mmol, 2N, 6.9 mL | [OH-].[Na+]
reactant | di-tert-butyl carbonate | 1.44 mmol, 314 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | platinum(IV) oxide | 0.14 mmol, 32 mg | [Pt](=O)=O
catalyst | platinum(IV) oxide | 32 mg | [Pt](=O)=O
product | tert-butyl 2-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate | 440 mg, 100% | NC1=NC=NN2C1=CC=C2C2N(CCCC2)C(=O)OC(C)(C)C | C16H23N5O2
